US04937248
In a Parr catalytic hydrogenation apparatus 6-nitrocarbostyril, 5.3 g (0.028 mole), in 150 mL of methanol and 0.5 g PtO2 were shaken in a hydrogen atmosphere. The resulting yellow solid was extracted with refluxing methanol to yield 6-aminocarbostyril, 3.5 g, as yellow crystals; m.p. 315°-317° C.

reactant | 6-nitrocarbostyril | [N+](=O)([O-])C=1C=C2C=CC(NC2=CC1)=O | C9H6N2O3
reactant | hydrogen | [H][H] | H2
solvent | methanol | 150 mL | CO | CH4O
catalyst | PtO2 | 0.5 g | O=[Pt]=O
product | 6-aminocarbostyril | NC=1C=C2C=CC(NC2=CC1)=O | C9H8N2O
